US05004745
2.7 cm3 of triethylamine are added to a suspension of 1.9 g of 2-fluoroethylamine hydrochloride in 25 cm3 of trichlorcmethane. 3.5 g of ethyl 2-(2,7-dichloro-6-fluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate are added to the solution obtained at about 20° C. After stirring at this temperature for 16 hours, the solution is concentrated to dryness under reduced pressure (20 kPa) at about 50° C. The residue is taken up in 20 cm3 of ethanol and 3 cm3 of triethylamine and heat at about 75° C., with stirring, for 2 hours. After cooling to about 20° C. the insoluble matter is drained and washed with twice 10 cm3 of ethanol and twice 10 cm3 of diisopropyl ether. 1.9 g of 8-chloro-3-ethoxycarbonyl-7-fluoro-1-(2-fluoro-ethyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine are obtained in the form of a yellow solid melting at 268° C., which is used for the subsequent steps without further purification.

reactant | 2-fluoroethylamine hydrochloride | 1.9 g | Cl.FCCN
reactant | ethyl 2-(2,7-dichloro-6-fluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate | 3.5 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)Cl | C17H15Cl2FN2O3
solvent | triethylamine | 2.7 cm3 | C(C)N(CC)CC | C6H15N
product | 8-chloro-3-ethoxycarbonyl-7-fluoro-1-(2-fluoro-ethyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 1.9 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)CCF)C1)F | C17H13ClF2N2O3
